US07851626B2
rac-(4S*,5R*)-2-(4-tert-Butyl-2-isopropoxy-phenyl)-4,5-bis-(4-chloro-phenyl)-4,5-dimethyl-4,5-dihydro-imidazole-1-carboxylic acid bis-(2-methoxy-ethyl)-amide
In a manner analogous to the method described in example 5, rac-(4S*,5R*)-2-(4-tert-butyl-2-isopropoxy-phenyl)-4,5-bis-(4-chloro-phenyl)-4,5-dimethyl-4,5-dihydro-imidazole-1-carbonyl chloride was reacted with bis-(2-methoxyethyl)-amine (Aldrich) to give the title compound. HR-MS (ES, m/z) calculated for C37H49N4O5SCl2 [(M+H)+] 668.3017, observed 668.3010.

reactant | rac-(4S*,5R*)-2-(4-tert-butyl-2-isopropoxy-phenyl)-4,5-bis-(4-chloro-phenyl)-4,5-dimethyl-4,5-dihydro-imidazole-1-carbonyl chloride | C(C)(C)(C)C1=CC(=C(C=C1)C=1N(C(C(N1)(C)C1=CC=C(C=C1)Cl)(C)C1=CC=C(C=C1)Cl)C(=O)Cl)OC(C)C | C31H33Cl3N2O2
reactant | bis-(2-methoxyethyl)-amine | COCCNCCOC | C6H15NO2
product | rac-(4S*,5R*)-2-(4-tert-Butyl-2-isopropoxy-phenyl)-4,5-bis-(4-chloro-phenyl)-4,5-dimethyl-4,5-dihydro-imidazole-1-carboxylic acid bis-(2-methoxy-ethyl)-amide | COCCN(C(=O)N1C(=NC(C1(C)C1=CC=C(C=C1)Cl)(C)C1=CC=C(C=C1)Cl)C1=C(C=C(C=C1)C(C)(C)C)OC(C)C)CCOC | C37H47Cl2N3O4
